2118-05-21 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2118-5-20**] 10:35 AM
 DIALYSIS CATHETER - START [**2118-5-20**] 08:02 PM
   [**5-20**]
   - Notified by Micro Lab 1 of 2 aerobic bottles grew gm+ cocci in pairs
   and clusters from peripheral puncture
   - Pt hypotensive 80's/40's.  Bolused 250 and responded.  Started
   another 250 and will monitor.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-5-20**] 10:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-5-21**] 04:02 AM
   Infusions:
   Other ICU medications:
   Albuterol 0.083% Neb Soln
   Aspirin
   Azithromycin
   Clopidogrel
   Digoxin
   Docusate Sodium
   Heparin
   Ipratropium Bromide Neb
   Lactulose
   Latanoprost 0.005% Ophth. Soln
   Levothyroxine Sodium
   Nadolol
   Nephrocaps
   Norepinephrine
   Pantoprazole
   Piperacillin-Tazobactam
   Rifaximin
   Senna
   Sodium Chloride 0.9% Flush
   Vancomycin
   Zolpidem Tartrate
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-21**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 65 (58 - 78) bpm
   BP: 84/32(45) {81/32(45) - 125/62(77)} mmHg
   RR: 25 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 77 kg (admission): 77 kg
             Total In:
                                                                    812 mL
                                                                  1,379 mL
   PO:
             TF:
   IVF:
                                                                    812 mL
                                                                  1,379 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,688 mL
                                                                  1,379 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 250 (250 - 250) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.2 L/min
   Physical Examination
   GEN: WDWN elderly male, NAD, somnolent but arousable to voice
   HEENT: NC/AT, MMM
   CV: irregularly irregular, 2/6 systolic murmur at base
   LUNGS: bibasilar crackles, few scattered wheezes
   ABDOMEN: soft, distenended, positive BS.  + fluid wave. non tender
   EXT: no edema
   SKIN: no rash
   NEURO: A/O x 3. moves all extremities without difficulty
   Labs / Radiology
   190 K/uL
   9.6 g/dL
   89 mg/dL
   2.5 mg/dL
   31 mEq/L
   3.5 mEq/L
   15 mg/dL
   99 mEq/L
   141 mEq/L
   30.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2118-5-21**]  02:01 AM
   WBC
   12.1
   Hct
   30.9
   Plt
   190
   Cr
   2.5
   Glucose
   89
   Other labs: PT / PTT / INR:18.2/32.2/1.6, ALT / AST:18/21, Alk Phos / T
   Bili:149/1.3, Albumin:3.0 g/dL, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:1.6
   mg/dL, PO4:3.4 mg/dL
   CXR: [**2118-5-20**]
   Somewhat limited study due to patient position and respiratory motion.
   Persitent right pleural effusion and right basilar opacity, possibly
   representing atelectasis, but pneumonia is not excluded.  Small left
   pleural effusion.  No CHF.
   Assessment and Plan
   82 yo male with ESRD on HD, HTN, PVD, CAD s/p CABG, s/p PPM/ICD
   placement, afib who presents with 2 days onset of dyspnea and fever in
   ER.
   1) Fever: possible etiology includes PNA given dyspnea, bacteremia
   given HD patient, abdominal source, unlikely urinary since patient does
   not make urine.  Blood cultures 1 of 2 aerobic bottles grew gm+ cocci
   in pairs and clusters from peripheral puncture on [**5-19**] @9am.  This may
   represent contaminant as the most likely source would be expected to be
   the HD line, but will be in touch with renal re: speciation.
   -cont vanco/zosyn/azithro for HAP and possible legionella given fevers
   and dyspnea and inability to clearly view lung fields [**12-20**] to ICD
   (bilat) obscuring film.
   - blood cx (as above), sputum culture
   - trend LFTs
   - Will hold off on abdominal US to eval for cholelithiasis or
   obstruction though patient is s/p cholecystectomy given down trending
   LFT
   2) Hypoxia: Pt on O2 via NC.  No clear convincing evidence of PNA on
   CXR but as stated above film of limited utility.  Could be infectious,
   volume overload given need for HD or PE though less likely.
   - HD per renal for volume removal
   - antibiotics as above
   - sputum culture
   - consider chest CT if no improvement
   - BiPAP for now; wean as tolerated.  DNR/DNI confirmed
   - check ABG
   3) Hypotension:  Pt became hypotensive during the night with pressures
   in the 80
s/30
s which were transiently responsive to fluid initially
   and then became unresponsive to repeated fluid boluses (thought small
   at only 250cc at a time).  Pt has HD catheter in place R subclavian
   which can be utilized as temporary access if need for immediate
   pressors.  Would prefer to have new independent line for pressor.
   Hypotension may be due to fluid reduction at HD, infection, cardiogenic
   shock.
   - Continue fluid boluses to a max of volume removed at HD yesterday
   (2.5L)
   - Start levophed and titrate to MAP>45
   4) PVD: s/p angio by Dr. [**Last Name (STitle) 9494**], discharged [**5-13**]
   - vascular to f/u patient
   - cont clopidogrel/ASA
   - monitor pulses
   - wound care consult for LE ulcers
   5) ESRD on HD: needs HD today. also with hyperkalemia without ECG
   changes
   - renal recs
   - cont nephrocaps
   6) CAD s/p CABG: CP free currently. no ECG changes. unlikely hypoxia to
   be secondary to ischemic event without symptoms or ECG changes
   - cont ASA
   - cont b-blocker
   7) Cirrhosis: thought to be secondary to steatohepatitis.  has AMS
   today of unclear cause per ER, but per wife, patient has had normal
   mental status and currently is completely clear.
   - ABG as above
   - lactulose for BMs; cont rifaximin
   - treat infection as above
   - consider diagnostic para for SBP
   8) Coagulopathy: Pt coagulopathic with INR 1.6 and bleeding from line
   sites.  Likely from liver failure.  Will give 2mg PO vit K and follow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-5-20**] 10:50 AM
   Dialysis Catheter - [**2118-5-20**] 08:02 PM
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:  PPI
   VAP:  n/a
   Comments:
   Communication: With Patient and wife [**Name (NI) **] [**Telephone/Fax (1) 9495**] Comments:
   DC to email Dr. [**Last Name (STitle) **]
   [**Name (STitle) 66**] status: DNR / DNI
   Disposition: MICU ; if stable throughout day may call out to wards.

2118-05-22 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2118-5-21**] 10:30 AM
 BLOOD CULTURED - At [**2118-5-21**] 05:08 PM
   from HD line prior to IR MD [**First Name (Titles) 9511**] [**Last Name (Titles) 9512**] line
 DIALYSIS CATHETER - STOP [**2118-5-21**] 05:35 PM
   -Talked with renal; agree that dialysis catheter is likely source of
   pt's bacteremia - agreed to pulling dialysis catheter but asked that we
   minimize fluid boluses
   -Dialysis catheter pulled by IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-5-20**] 10:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-5-21**] 04:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 78 (65 - 88) bpm
   BP: 122/60(69) {89/43(55) - 127/99(104)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 77 kg (admission): 77 kg
                  Total In:
                                                                  2,235 mL
                                                                     50 mL
   PO:
                                                                    850 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,385 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,235 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   9.7 g/dL
   90 mg/dL
   3.9 mg/dL
   28 mEq/L
   3.7 mEq/L
   26 mg/dL
   96 mEq/L
   137 mEq/L
   31.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2118-5-21**]  02:01 AM
                             [**2118-5-22**]  03:33 AM
   WBC
   12.1
   9.3
   Hct
   30.9
   31.3
   Plt
   190
   201
   Cr
   2.5
   3.9
   Glucose
   89
   90
   Other labs: PT / PTT / INR:16.1/31.9/1.4, ALT / AST:18/25, Alk Phos / T
   Bili:160/1.0, Albumin:3.0 g/dL, LDH:206 IU/L, Ca++:8.9 mg/dL, Mg++:1.6
   mg/dL, PO4:4.2 mg/dL
   Echo ([**5-21**])The left atrium is moderately dilated. The estimated right
   atrial pressure is 10-20mmHg. There is mild symmetric left ventricular
   hypertrophy with normal cavity size. There is moderate global left
   ventricular hypokinesis (LVEF = 35-40 %). Tissue Doppler imaging
   suggests an increased left ventricular filling pressure (PCWP>18mmHg).
   Transmitral Doppler and tissue velocity imaging are consistent with
   Grade III/IV (severe) LV diastolic dysfunction. The right ventricular
   cavity is moderately dilated with normal free wall contractility. There
   is abnormal septal motion/position consistent with right ventricular
   pressure/volume overload. The ascending aorta is mildly dilated. The
   number of aortic valve leaflets cannot be determined. The aortic valve
   leaflets are moderately thickened. No masses or vegetations are seen on
   the aortic valve. There is severe aortic valve stenosis (valve area
   0.8-cm2). There is no aortic regurgitation. The mitral valve leaflets
   are mildly thickened. There is no mitral valve prolapse. No mass or
   vegetation is seen on the mitral valve. Mild (1+) mitral regurgitation
   is seen. The left ventricular inflow pattern suggests a restrictive
   filling abnormality, with elevated left atrial pressure. The tricuspid
   valve leaflets are mildly thickened. Moderate to severe [3+] tricuspid
   regurgitation is seen. There is moderate pulmonary artery systolic
   hypertension. There is a moderate sized (1.6 cm) pericardial effusion.
   The effusion appears loculated.
   IMPRESSION: No echocardiographic evidence of endocarditis. Moderate
   global left ventricular hypokinesis with severe diastolic dysfunction
   and elevated filling pressures. Dilated right ventricle. Moderate
   pulmonary hypertension. Severe aortic stenosis. Moderate to severe
   tricuspid regurgitation. Moderate sized loculated pericardial effusion
   located posterior to the inferior wall.
   Assessment and Plan
   82 yo male with ESRD on HD, HTN, PVD, CAD s/p CABG, s/p PPM/ICD
   placement, afib who presents with 2 days onset of dyspnea and fever in
   ER.
   1) Fever:
   - 2 blood cultures growing out GPC
 one has been speciated at coag+
   staph aureus
   - echo showed no evidence of endocarditis
   - cont vanco/zosyn
   - f/u remaining cultures (including catheter tip)
   - trend LFTs
   - dialysis catheter tip pulled yesterday.
   - on vanc and rifaximin
 vanc level 8.1
 renal recommends giving 1gm
   vanc IV
   2) Hypoxia: Pt on O2 via NC.
   - continue to check ABG
   - improved, per pt
   - possibly get a PA and lateral chest film today to better evaluate for
   an infiltrate
   3) Hypotension:  Pt became hypotensive during the night with pressures
   in the 80
s/30
s which were transiently responsive to fluid initially
   and then became unresponsive to repeated fluid boluses (thought small
   at only 250cc at a time).  Pt has HD catheter in place R subclavian
   which can be utilized as temporary access if need for immediate
   pressors.  Would prefer to have new independent line for pressor.
   Hypotension may be due to fluid reduction at HD, infection, cardiogenic
   shock.
   - Continue fluid boluses to a max of volume removed at HD yesterday
   (2.5L)
   - Start levophed and titrate to MAP>45
   4) PVD: s/p angio by Dr. [**Last Name (STitle) 9494**], discharged [**5-13**]
   - vascular to f/u patient
   - cont clopidogrel/ASA
   - monitor pulses
   - wound care consult for LE ulcers
   5) ESRD on HD: needs HD today. also with hyperkalemia without ECG
   changes
   - renal recs
   - cont nephrocaps
   6) CAD s/p CABG: CP free currently. no ECG changes. unlikely hypoxia to
   be secondary to ischemic event without symptoms or ECG changes
   - cont ASA
   - cont b-blocker
   7) Cirrhosis: thought to be secondary to steatohepatitis.  has AMS
   today of unclear cause per ER, but per wife, patient has had normal
   mental status and currently is completely clear.
   - ABG as above
   - lactulose for BMs; cont rifaximin
   - treat infection as above
   - consider diagnostic para for SBP
   8) Coagulopathy: Pt coagulopathic with INR 1.6 and bleeding from line
   sites.  Likely from liver failure.  Will give 2mg PO vit K and follow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-5-20**] 10:50 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor